US08349871B2
To a solution of 5.04 g (27.2 mmol) of 2-fluoro-4-methoxybenzoic acid methyl ester in ethanol (50 mL) are added 36.9 mL (408.6 mmol) of hydrazine hydrate. The reaction is stirred at room temperature for 15 h. The mixture is concentrated under reduced pressure and the solid is washed with DCM/heptane (2:1) to give 4.26 g (23.0 mmol) of 2-fluoro-4-methoxybenzoic acid hydrazide. Yield: 85%, ES-MS: m/z [M+H] 185.

reactant | 2-fluoro-4-methoxybenzoic acid methyl ester | 27.2 mmol, 5.04 g | COC(C1=C(C=C(C=C1)OC)F)=O | C9H9FO3
reactant | hydrazine hydrate | 408.6 mmol, 36.9 mL | O.NN
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-fluoro-4-methoxybenzoic acid hydrazide | 23.0 mmol, 4.26 g, Yield: 85% | FC1=C(C(=O)NN)C=CC(=C1)OC | C8H9FN2O2
